US05484801
(2S,3S,5S)-5-(N-(N-((N-Methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1.6-diphenyl-3-hydroxyhexane
N-((N-Methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine (4.13 g, 13.18 mmole) and hydroxybenztriazole (2.23 g, 16.48 mmoles) were dissolved in 70 mL THF and then dicyclohexyl-carbodiimide(2.71 g, 13.18 mmoles) was added in one portion to the stirred solution under nitrogen atmosphere. This mixture was stirred for 4 h at room temperature and then filtered to remove dicyclohexylurea precipitate. (2S,3S,5S)-5-Amino-2-(N-((5-thiazolyl)-methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane (5.1 g, 11.99 mmoles) was dissolved in 100 mL THF under nitrogen atmosphere. To this stirred solution was added the filtrate of HOBT-active ester and the resulting solution was stirred at room temperature for 4 h, and the solvent removed via rotary evaporation. The residue was dissolved in 150 mL ethyl acetate and washed with 2×100 mL 1N NaOH, 100 mL brine, 100 mL of 1% w/w aqueous KHSO4 and the solvent was removed by rotary evaporation to afford a residue. The residue was dissolved in 175 mL 1N HCL, and the solution filtered to remove the small quantity of dicyclohexylurea. The filtrate solution was added to 175 mL ethyl acetate and the two phase mixture rapidly mixed. The pH of this rapidly stirred mixture was adjusted to pH=7 by dropwise addition of cold 3N NaOH. The organic layer was isolated, washed with 100 mL brine, dried over Na2SO4, filtered, and the solvent was removed to afford 8.6 g of a colorless foam. This material was crystallized from 42 mL EtOAc and 21 mL hexane to give 7.85 g of the desired product as a white solid. mp=122°-123° C. CIMS m/z 721 (M+H)+.

reactant | N-((N-Methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)-L-valine | 13.18 mmole, 4.13 g | CN(CC=1N=C(SC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)O | C14H23N3O3S
reactant | hydroxybenztriazole | 16.48 mmoles, 2.23 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexyl-carbodiimide | 13.18 mmoles, 2.71 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (2S,3S,5S)-5-Amino-2-(N-((5-thiazolyl)-methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | 11.99 mmoles, 5.1 g | N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O)CC1=CC=CC=C1 | C23H27N3O3S
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (2S,3S,5S)-5-(N-(N-((N-Methyl-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1.6-diphenyl-3-hydroxyhexane | 8.6 g | CN(CC=1N=C(SC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O)CC1=CC=CC=C1 | C37H48N6O5S2
